US07674809B2
27f) N-benzoyl-2-amino-5-nitrobenzylamine
Triethylamine (116 ml, 0.835 mol) and DMAP (2.0 g, 0.016 mol) are added to 2-amino-5-nitrobenzonitrile (68 g, 0.33 mol) in dichloromethane (1 litre). The mixture is cooled to +5° C., and benzoyl chloride (38.8 ml, 0.33 mol) in dichloromethane (50 ml) is added. The resulting mixture is stirred for 2 hours and then concentrated. The residue is taken up in 10/1 water/ethanol (550 ml) and the product is filtered off and recrystallized from isopropyl ether. Yield: 88.5 g (97%); IR (KBr): 3375, 3213, 1638, 1547, 1319 cm−1; 1H-NMR (d6-DMSO) 8.15 (m, 1H); 7.85 (m, 4H); 7.51 (m, 4H); 6.68 (m, 3H); 4.30 (m, 2H).

reactant | Triethylamine | 0.835 mol, 116 ml | C(C)N(CC)CC | C6H15N
reactant | 2-amino-5-nitrobenzonitrile | 0.33 mol, 68 g | NC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | benzoyl chloride | 0.33 mol, 38.8 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | DMAP | 0.016 mol, 2.0 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 1 litre | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-benzoyl-2-amino-5-nitrobenzylamine | C(C1=CC=CC=C1)(=O)NCC1=C(C=CC(=C1)[N+](=O)[O-])N | C14H13N3O3
